US06258360B1
tert-Butyl 2-bromo-2-methylpropanoate (58)
Isobutene is condensed into a solution of 2-bromo-2-methylpropanoic acid (10 mmol) and trifluoromethane sulfonic acid (0.1 mmol) in 100 mL of CH2Cl2 until the starting material is consumed, as observed by TLC. The volatile components are evaporated in vacuo, and the residue is filtered through a pad of neutral alumina using 50% ether/hexane. The filtrate is concentrated in vacuo and used without further purification.

reactant | Isobutene | C=C(C)C | C4H8
reactant | 2-bromo-2-methylpropanoic acid | 10 mmol | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | trifluoromethane sulfonic acid | 0.1 mmol | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-bromo-2-methylpropanoate | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
